US06352982B1
NMR(CDCl3) δ: 1.02(6H,d,J=6.6 Hz), 1.449(9H,s), 2.05(1H,m), 3.64(2H,d,J=6.6 Hz), 4.31(2H,d,J=5.6 Hz), 4.85(1H,m), 6.797(1H,s), 6.6-7.5(7H,m) (5) In methanol (12 ml) were dissolved 2-amino-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-isobutyloxybenzyl alcohol (0.36 g), 4-benzyloxy-benzaldehyde (0.2 g) and acetic acid (0.05 g). To the solution was added cyano sodium borohydride (0.065 g). The mixture was stirred for 20 minutes at 60° C. To the reaction mixture was added water (6 ml), which was subjected to extraction with ethyl acetate (60 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to leave 2-(4-benzyloxybenzylamino)-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-isobutyloxybenzyl alcohol as a yellow oily product (0.45 g).

reactant | 2-amino-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-isobutyloxybenzyl alcohol | 0.36 g | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)OCC(C)C | C23H32N2O4
reactant | 4-benzyloxy-benzaldehyde | 0.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | acetic acid | 0.05 g | C(C)(=O)O | C2H4O2
reactant | cyano sodium borohydride | 0.065 g | [BH4-].C(#N)[Na]
solvent | methanol | 12 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | 2-(4-benzyloxybenzylamino)-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-isobutyloxybenzyl alcohol | C(C1=CC=CC=C1)OC1=CC=C(CNC2=C(C(C3=CC(=CC=C3)CNC(=O)OC(C)(C)C)O)C=C(C=C2)OCC(C)C)C=C1 | C37H44N2O5
